US09238640B2
Preparation of 2-(2,6-Dimethylpyridin-4-yl)-5,7-dimethoxyquinazolin-4(3H)-one
To a solution of 2,6-dimethylpyridine-4-carbaldehyde (0.14 g, 1.00 mmol) in N,N-dimethyl acetamide (10 mL) were added 2-amino-4,6-dimethoxybenzamide (0.20 g, 1.00 mmol), sodium hydrogen sulfite (0.21 g, 2.00 mmol), and p-toluenesulfonic acid (0.28 g, 1.50 mmol). The reaction mixture was stirred at 110° C. for 16 hours under nitrogen. After cooling to room temperature, solvent was evaporated under reduced pressure. The residue was dissolved in ethyl acetate, washed with saturated NaHCO3 solution (30 mL), water (30 mL), and brine (30 mL), and dried over anhydrous sodium sulfate. Solvent was evaporated, and the residue was purified by column chromatography (silica gel 230-400 mesh; 2-5% methanol in dichloromethane as eluent) to give the title compound as a yellow solid. Yield: 0.030 g (10%). MP 291-292° C. 1H NMR (400 MHz, CDCl3): δ 9.86 (br s, 1H), 7.60 (s, 2H), 6.87 (d, J=2.2 Hz, 1H), 6.53 (d, J=2.2 Hz, 1H), 3.99 (s, 3H), 3.95 (s, 3H), 2.66 (s, 6H). MS (ES) m/z: 312.50 (M+1) (100%).

reactant | 2,6-dimethylpyridine-4-carbaldehyde | 1.00 mmol, 0.14 g | CC1=NC(=CC(=C1)C=O)C | C8H9NO
reactant | 2-amino-4,6-dimethoxybenzamide | 1.00 mmol, 0.20 g | NC1=C(C(=O)N)C(=CC(=C1)OC)OC | C9H12N2O3
reactant | sodium hydrogen sulfite | 2.00 mmol, 0.21 g | S(=O)(O)[O-].[Na+]
reactant | p-toluenesulfonic acid | 1.50 mmol, 0.28 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | N,N-dimethyl acetamide | 10 mL | CN(C(C)=O)C | C4H9NO
product | 2-(2,6-Dimethylpyridin-4-yl)-5,7-dimethoxyquinazolin-4(3H)-one | CC1=NC(=CC(=C1)C1=NC2=CC(=CC(=C2C(N1)=O)OC)OC)C | C17H17N3O3
